US09193689B2
To 4-({methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester (170 mg, 0.35 mmol) in CH2Cl2 (5 mL) was added 4M HCl/dioxane (2 mL) and the reaction mixture stirred at RT for 4 h. The solvent was removed in vacuo and the crude product purified by reverse phase preparative HPLC-MS to obtain N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-piperidin-4-ylmethyl-benzamide as a pale orange solid (44 mg, 33%).

reactant | 4-({methyl-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzoyl]-amino}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.35 mmol, 170 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)C | C29H35N3O4
reactant | HCl dioxane | 4M, 2 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-N-piperidin-4-ylmethyl-benzamide | 44 mg, 33% | CN(C(C1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O)=O)CC1CCNCC1 | C24H27N3O2
